US08664220B2
Step 1: (5-Benzyl-[1,3,4]oxadiazol-2-yl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-methanol
2-Benzyl-[1,3,4]oxadiazole (0.500 g, 3.12 mmol) was dissolved in THF and cooled to −70° C. then n-butyllithium (1.5M in THF, 2.1 mL, 3.12 mmol) was added and the reaction stirred for 1.5 hours. Magnesium bromide ethyl etherate (0.631 g, 3.43 mmol) was added and the reaction was allowed to warm to −45° C. After 45 minutes 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde (0.415 g, 1.56 mmol) in THF (2 mL) was added and the reaction was allowed to stir overnight. The reaction was quenched with aqueous ammonium chloride then submitted to standard workup and purification via silica gel chromatography (0-60% EtOAc in hexanes) to give the title compound.

reactant | 2-Benzyl-[1,3,4]oxadiazole | 3.12 mmol, 0.500 g | C(C1=CC=CC=C1)C=1OC=NN1 | C9H8N2O
reactant | n-butyllithium | 3.12 mmol, 1.5M, 2.1 mL | C(CCC)[Li]
reactant | Magnesium bromide ethyl etherate | 3.43 mmol, 0.631 g | CCOCC.[Mg+2].[Br-].[Br-]
reactant | 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde | 1.56 mmol, 0.415 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C=O | C11H8BrNO2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (5-Benzyl-[1,3,4]oxadiazol-2-yl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-methanol | C(C1=CC=CC=C1)C1=NN=C(O1)C(O)C=1C(=NOC1C1=CC=C(C=C1)Br)C | C20H16BrN3O3
